** sch_path: /mnt/c/Users/naoki/opensusi/TR-1um_MPW_template/src/tr_1um_AriyoshiNaoki1016jp.sch
.subckt tr_1um_AriyoshiNaoki1016jp P1 P2 P3 P4 P5 P6 P7 VSS VDD P15 P14 P13 P12 P11 P10 P9
*.PININFO P1:B P2:B P3:B P4:B P5:B P6:B P7:B VSS:B VDD:B P15:B P14:B P13:B P12:B P11:B P10:B P9:B
x1 P1 VDD P2 P15 P14 P3 P4 P13 P5 P12 P6 P11 P10 P7 P9 VSS OSS_FRAME
MXM1 N1 P2 net1 VSS NMOS w=3.4u l=1u
MXM3 N1 P3 VDD VDD PMOS w=3.4u l=1u
MXM4 N1 P2 VDD VDD PMOS w=3.4u l=1u
MXM2 net1 P3 VSS VSS NMOS w=3.4u l=1u
MXM5 N2 N1 net2 VSS NMOS w=3.4u l=1u
MXM6 N2 P3 VDD VDD PMOS w=3.4u l=1u
MXM7 N2 N1 VDD VDD PMOS w=3.4u l=1u
MXM8 net2 P3 VSS VSS NMOS w=3.4u l=1u
MXM9 N3 N1 net3 VSS NMOS w=3.4u l=1u
MXM10 N3 P2 VDD VDD PMOS w=3.4u l=1u
MXM11 N3 N1 VDD VDD PMOS w=3.4u l=1u
MXM12 net3 P2 VSS VSS NMOS w=3.4u l=1u
MXM13 P N3 net4 VSS NMOS w=3.4u l=1u
MXM14 P N2 VDD VDD PMOS w=3.4u l=1u
MXM15 P N3 VDD VDD PMOS w=3.4u l=1u
MXM16 net4 N2 VSS VSS NMOS w=3.4u l=1u
MXM17 N5 N4 net5 VSS NMOS w=3.4u l=1u
MXM18 N5 P VDD VDD PMOS w=3.4u l=1u
MXM19 N5 N4 VDD VDD PMOS w=3.4u l=1u
MXM20 net5 P VSS VSS NMOS w=3.4u l=1u
MXM21 N4 P1 net6 VSS NMOS w=3.4u l=1u
MXM22 N4 P VDD VDD PMOS w=3.4u l=1u
MXM23 N4 P1 VDD VDD PMOS w=3.4u l=1u
MXM24 net6 P VSS VSS NMOS w=3.4u l=1u
MXM25 N6 N4 net7 VSS NMOS w=3.4u l=1u
MXM26 N6 P1 VDD VDD PMOS w=3.4u l=1u
MXM27 N6 N4 VDD VDD PMOS w=3.4u l=1u
MXM28 net7 P1 VSS VSS NMOS w=3.4u l=1u
MXM29 P15 N6 net8 VSS NMOS w=3.4u l=1u
MXM30 P15 N5 VDD VDD PMOS w=3.4u l=1u
MXM31 P15 N6 VDD VDD PMOS w=3.4u l=1u
MXM32 net8 N5 VSS VSS NMOS w=3.4u l=1u
MXM33 P14 N4 net9 VSS NMOS w=3.4u l=1u
MXM34 P14 N1 VDD VDD PMOS w=3.4u l=1u
MXM35 P14 N4 VDD VDD PMOS w=3.4u l=1u
MXM36 net9 N1 VSS VSS NMOS w=3.4u l=1u
.ends

* expanding   symbol:  OSS_FRAME.sym # of pins=16
** sym_path: /home/naoki/pdk/TR-1um/libs.tech/xschem/TR-1um_frame/OSS_FRAME.sym
** sch_path: /home/naoki/pdk/TR-1um/libs.tech/xschem/TR-1um_frame/OSS_FRAME.sch
.subckt OSS_FRAME P1 VDD P2 P15 P14 P3 P4 P13 P5 P12 P6 P11 P10 P7 P9 VSS
*.PININFO P1:B P2:B P3:B P4:B P5:B P6:B P7:B VSS:B VDD:B P15:B P14:B P13:B P12:B P11:B P10:B P9:B
x1 VDD P1 VSS OSS_ESD_5V_ANA
x2 VDD VSS OSS_ESD_5V_VDD
x3 VDD VSS OSS_ESD_5V_VSS
x4 VDD P2 VSS OSS_ESD_5V_ANA
x5 VDD P3 VSS OSS_ESD_5V_ANA
x6 VDD P4 VSS OSS_ESD_5V_ANA
x7 VDD P5 VSS OSS_ESD_5V_ANA
x8 VDD P6 VSS OSS_ESD_5V_ANA
x9 VDD P7 VSS OSS_ESD_5V_ANA
x10 VDD P15 VSS OSS_ESD_5V_ANA
x11 VDD P14 VSS OSS_ESD_5V_ANA
x12 VDD P13 VSS OSS_ESD_5V_ANA
x13 VDD P12 VSS OSS_ESD_5V_ANA
x14 VDD P11 VSS OSS_ESD_5V_ANA
x15 VDD P10 VSS OSS_ESD_5V_ANA
x16 VDD P9 VSS OSS_ESD_5V_ANA
.ends


* expanding   symbol:  OSS_ESD_5V_ANA.sym # of pins=4
** sym_path: /home/naoki/pdk/TR-1um/libs.tech/xschem/TR-1um_frame/OSS_ESD_5V_ANA.sym
** sch_path: /home/naoki/pdk/TR-1um/libs.tech/xschem/TR-1um_frame/OSS_ESD_5V_ANA.sch
.subckt OSS_ESD_5V_ANA VDD PAD VSS
*.PININFO PAD:B VDD:B VSS:B
MXM1 PAD VDD VDD VDD PMOS w=500u l=2u
MXM2 PAD VSS VSS VSS NMOSE w=500u l=2u
.ends


* expanding   symbol:  OSS_ESD_5V_VDD.sym # of pins=3
** sym_path: /home/naoki/pdk/TR-1um/libs.tech/xschem/TR-1um_frame/OSS_ESD_5V_VDD.sym
** sch_path: /home/naoki/pdk/TR-1um/libs.tech/xschem/TR-1um_frame/OSS_ESD_5V_VDD.sch
.subckt OSS_ESD_5V_VDD VDD VSS
*.PININFO VDD:B VSS:B
MXM1 VDD VDD VDD VDD PMOS w=500u l=2u
MXM2 VDD VSS VSS VSS NMOSE w=500u l=2u
.ends


* expanding   symbol:  OSS_ESD_5V_VSS.sym # of pins=3
** sym_path: /home/naoki/pdk/TR-1um/libs.tech/xschem/TR-1um_frame/OSS_ESD_5V_VSS.sym
** sch_path: /home/naoki/pdk/TR-1um/libs.tech/xschem/TR-1um_frame/OSS_ESD_5V_VSS.sch
.subckt OSS_ESD_5V_VSS VDD VSS
*.PININFO VSS:B VDD:B
MXM1 VSS VDD VDD VDD PMOS w=500u l=2u
MXM2 VSS VSS VSS VSS NMOSE w=500u l=2u
.ends

